US04755616
One mole of 4-hyroxybenzoic acid was reacted with two moles of hydrogen in the presence of 5% palladium-carbon catlyst. This reaction was carried out in isopropyl alcohol at a temperature of 130°-140° C. and a hydrogen pressure of 20-40 kg/cm2 (gauge). After the reaction mixture was filtered to recover the catalyst therefrom, the filtrate was distilled to recover the solvent. The resulting residue was recrystallized from a mixture of benzene and hexane to obtain cyclohexane-4-carboxylic acid. This product had a melting point of 67.0°-68.0° C.

reactant | 4-hyroxybenzoic acid | One mole | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | hydrogen | two moles | [H][H] | H2
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
catalyst | palladium-carbon | [C].[Pd]
product | cyclohexane-4-carboxylic acid | C1CCC(CC1)C(=O)O | C7H12O2
